### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): define deleteIncidenceSet

### PR DESCRIPTION
**Pull request by mitchell-horner**
Define the operation `G.deleteIncidenceSet x` deleting the incidence set of the vertex `x` from the edge set of the simple graph `G` and prove theorems in the finite case.

---

- [x] depends on: #20825
- [x] depends on: #23808 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mitchell-horner** [comment]
I've created the separate file `DeleteEdges.lean` as the imports for operations that delete edges gets a bit messy if `deleteEdges` is left in `Basic.lean` and `DeleteFar` is left in `Finite.lean`.

**Comment by grunweg** [comment]
Thanks for your PR. Can you merge the master branch, please? Right now, your PR has a merge conflict, meaning it won't show up in the review queue.

**Comment by grunweg** [comment]
(Your PR also has been waiting for review for a long time now; I'm sorry to hear that. Having it appear in the review queue makes it much likelier a reviewer sees this.)

**Comment by mitchell-horner** [comment]
> Thanks for your PR. Can you merge the master branch, please? Right now, your PR has a merge conflict, meaning it won't show up in the review queue.

@grunweg Thanks for the heads up. :grin:

I don't get an email when the merge-conflict tag is added...

> (Your PR also has been waiting for review for a long time now; I'm sorry to hear that. Having it appear in the review queue makes it much likelier a reviewer sees this.)

I suspect the large-import tag is off-putting. I also probably should have split this PR into two: one creating the separate file, one adding `deleteIncidenceSet`.

**Comment by grunweg** [comment]
> > Thanks for your PR. Can you merge the master branch, please? Right now, your PR has a merge conflict, meaning it won't show up in the review queue.
> 
> @grunweg Thanks for the heads up. 😁
> 
> I don't get an email when the merge-conflict tag is added...
That is sadly a known issue. #22833 proposes adding a comment, so you would get a notification.

> 
> > (Your PR also has been waiting for review for a long time now; I'm sorry to hear that. Having it appear in the review queue makes it much likelier a reviewer sees this.)
> 
> I suspect the large-import tag is off-putting. I also probably should have split this PR into two: one creating the separate file, one adding `deleteIncidenceSet`.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean [hunk 1]
```diff
@@ -82,6 +89,98 @@ theorem edgeFinset_deleteEdges [DecidableEq V] [Fintype G.edgeSet] (s : Finset (
 
 end DeleteEdges
 
+section DeleteIncidenceSet
+
+/-- Given a vertex `x`, remove the edges incident to `x` from the edge set. -/
+abbrev deleteIncidenceSet (G : SimpleGraph V) (x : V) : SimpleGraph V :=
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean:95]: Let's make this a def rather than an abbrev: I'm conscious many things around here are abbrevs but we're trying to move away from that!

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean [hunk 2]
```diff
@@ -191,7 +191,7 @@ instance incidenceSetFintype [DecidableEq V] : Fintype (G.incidenceSet v) :=
   Fintype.ofEquiv (G.neighborSet v) (G.incidenceSetEquivNeighborSet v).symm
 
 /-- This is the `Finset` version of `incidenceSet`. -/
-def incidenceFinset [DecidableEq V] : Finset (Sym2 V) :=
+abbrev incidenceFinset [DecidableEq V] : Finset (Sym2 V) :=
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean:194]: Similarly here, let's revert this change

File: Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean [hunk 3]
```diff
@@ -82,6 +89,98 @@ theorem edgeFinset_deleteEdges [DecidableEq V] [Fintype G.edgeSet] (s : Finset (
...
+set difference the finite incidence set of the vertex `x`. -/
+theorem edgeFinset_deleteIncidenceSet_eq_sdiff (G : SimpleGraph V) [DecidableRel G.Adj] (x : V) :
+    (G.deleteIncidenceSet x).edgeFinset = G.edgeFinset \ (G.incidenceFinset x) := by
+  rw [← Set.toFinset_diff, Set.toFinset_inj]
+  exact G.edgeSet_deleteIncidenceSet x
+
+/-- Deleting the incident set of the vertex `x` deletes exactly `G.degree x` edges from the edge
+set of the simple graph `G`. -/
+theorem card_edgeFinset_deleteIncidenceSet (G : SimpleGraph V) [DecidableRel G.Adj] (x : V) :
+    #(G.deleteIncidenceSet x).edgeFinset = #G.edgeFinset-G.degree x := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean:156]:
```suggestion
    #(G.deleteIncidenceSet x).edgeFinset = #G.edgeFinset - G.degree x := by
```

File: Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean [hunk 4]
```diff
@@ -82,6 +89,98 @@ theorem edgeFinset_deleteEdges [DecidableEq V] [Fintype G.edgeSet] (s : Finset (
...
+  apply card_edgeFinset_induce_of_support_subset
+  trans G.support \ {x}
+  · exact deleteIncidenceSet_support_subset G x
+  · rw [Set.compl_eq_univ_diff]
+    exact Set.diff_subset_diff_left (Set.subset_univ G.support)
+
+/-- The finite edge set of `G.deleteIncidenceSet x` is the finite edge set of the simple graph `G`
+set difference the finite incidence set of the vertex `x`. -/
+theorem edgeFinset_deleteIncidenceSet_eq_sdiff (G : SimpleGraph V) [DecidableRel G.Adj] (x : V) :
+    (G.deleteIncidenceSet x).edgeFinset = G.edgeFinset \ (G.incidenceFinset x) := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean:149]:
```suggestion
    (G.deleteIncidenceSet x).edgeFinset = G.edgeFinset \ G.incidenceFinset x := by
```

File: Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean [hunk 5]
```diff
@@ -82,6 +89,98 @@ theorem edgeFinset_deleteEdges [DecidableEq V] [Fintype G.edgeSet] (s : Finset (
...
+
+lemma edgeSet_fromEdgeSet_incidenceSet (G : SimpleGraph V) (x : V) :
+    (fromEdgeSet (G.incidenceSet x)).edgeSet = G.incidenceSet x := by
+  rw [edgeSet_fromEdgeSet, sdiff_eq_left, ← Set.subset_compl_iff_disjoint_right, Set.compl_setOf]
+  exact (incidenceSet_subset G x).trans G.edgeSet_subset_setOf_not_isDiag
+
+/-- The edge set of `G.deleteIncidenceSet x` is the edge set of `G` set difference the incidence
+set of the vertex `x`. -/
+theorem edgeSet_deleteIncidenceSet (G : SimpleGraph V) (x : V) :
+    (G.deleteIncidenceSet x).edgeSet = G.edgeSet \ (G.incidenceSet x) := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean:114]:
```suggestion
    (G.deleteIncidenceSet x).edgeSet = G.edgeSet \ G.incidenceSet x := by
```

**Review by b-mehta — COMMENTED** [review]
Sorry for the delay on this one! I've left a few comments, but this is looking pretty nice overall

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean [hunk 6]
```diff
@@ -216,6 +216,10 @@ theorem incidenceFinset_eq_filter [DecidableEq V] [Fintype G.edgeSet] :
   induction e
   simp [mk'_mem_incidenceSet_iff]
 
+theorem incidenceFinset_subset [DecidableEq V] [Fintype G.edgeSet]:
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean:219]:
```suggestion
theorem incidenceFinset_subset [DecidableEq V] [Fintype G.edgeSet] :
```

File: Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean [hunk 7]
```diff
@@ -82,6 +89,103 @@ theorem edgeFinset_deleteEdges [DecidableEq V] [Fintype G.edgeSet] (s : Finset (
...
+  rw [incidenceFinset, Set.mem_toFinset, incidenceSet,
+    Set.mem_setOf_eq, not_and, Classical.imp_iff_right_iff]
+  left
+  rwa [mem_edgeFinset] at h
+
+/-- The support of `G.deleteIncidenceSet x` is at most `1` less than the support of the simple
+graph `G`. -/
+theorem card_support_deleteIncidenceSet
+    (G : SimpleGraph V) [DecidableRel G.Adj] {x : V} (hx : x ∈ G.support) :
+    card (G.deleteIncidenceSet x).support ≤ card G.support - 1 := by
```
[the remark this answers is not in the document]
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean:180]: Here `G.support : Set V`. This `card` is `Fintype.card` not `Finset.card`. Lean used to throw an error here saying that the use of `card` was ambiguous, but not anymore.

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors d+
